US09326973B2
NaH (60%, 0.480 g) was added to a cold (0° C.) solution of diethyl 2-allylmalonate (2.002 g) in DMF (10 mL) and the mixture was allowed to warm to rt over 30 min. Then a solution of 3-bromoprop-1-yne (1.487 g) in DMF (3 mL) was added dropwise at 0° C. and the mixture was allowed to warm to rt and stirred at rt overnight. The reaction mixture was diluted with ether and then quenched with sat. NH4Cl, washed with water, brine and dried (Na2SO4). The crude product was purified by silica gel FCC (1:1 DCM-hexane) to afford diethyl 2-allyl-2-(prop-2-ynyl)malonate as a clear oil.

reactant | NaH | 0.480 g | [H-].[Na+]
reactant | diethyl 2-allylmalonate | 2.002 g | C(C=C)C(C(=O)OCC)C(=O)OCC | C10H16O4
reactant | 3-bromoprop-1-yne | 1.487 g | BrCC#C | C3H3Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | diethyl 2-allyl-2-(prop-2-ynyl)malonate | C(C=C)C(C(=O)OCC)(C(=O)OCC)CC#C | C13H18O4
